US05110956
2-(6-Methyl-1,3-benzodioxol-5-yl)ethanol
1.9 g of 5-(2-benzyloxyethyl)-6-methyl-1,3-benzodioxole was dissolved in 80 ml of ethanol. 0.2 g of 10% palladium/carbon (containing 50% water) and 4 ml of acetic acid were added thereto and the catalytic reduction was conducted under 3 atm/cm2 for 1 h. After removing palladium/carbon, ethanol was distilled off and the product was purified according to silica gel column chromatography (ethyl acetate/hexane=2:3) to obtain 1.0 g of the intended compound in the form of a faint yellow oil.

reactant | 5-(2-benzyloxyethyl)-6-methyl-1,3-benzodioxole | 1.9 g | C(C1=CC=CC=C1)OCCC1=CC2=C(OCO2)C=C1C | C17H18O3
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.2 g | [Pd] | Pd
product | 2-(6-Methyl-1,3-benzodioxol-5-yl)ethanol | 1.0 g | CC=1C(=CC2=C(OCO2)C1)CCO | C10H12O3
